US05736534
8-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-quinazoline
Utilizing a procedure analogous to that described in Example 24, this product was prepared in 47% yield from 6-chloro-indoline and 4,8-dichloro-quinazoline. (M.P. 190° C.; LC-MS: 316 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4,8-dichloro-quinazoline | ClC1=NC=NC2=C(C=CC=C12)Cl | C8H4Cl2N2
product | 8-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-quinazoline | 47% yield | ClC=1C=CC=C2C(=NC=NC12)N1CCC2=CC=C(C=C12)Cl | C16H11Cl2N3
